US08138181B2
Step 3A: Preparation of tert-butyl 2-methoxy-6-(3-(7-(2-methoxyethoxy)imidazo[1,2-a]pyridin-3-yl)-3-oxoprop-1-ynyl)phenylcarbamate:
To tert-butyl 2-ethynyl-6-methoxyphenylcarbamate (1.77 g, 7.18 mmol) in THF (40 mL) was added butyllithium (0.919 g, 14.4 mmol) at −78° C., and the reaction was stirred for 1 hour. N-methoxy-7-(2-methoxyethoxy)-N-methylimidazo[1,2-a]pyridine-3-carboxamide (1.67 g, 5.98 mmol) in THF (55 mL) was then added to the reaction mixture dropwise. After the addition, the cold bath was removed and the reaction was warmed to ambient temperature. Following a 2 hour stir at ambient temperature, the reaction mixture was poured into cold saturated NH4Cl (40 mL) and EtOAc (50 mL). The phases were separated and the aqueous phase was extracted with EtOAc, dried over Na2SO4, filtered and concentrated. The residue was triturated with DCM to give product as a solid. The DCM solution was concentrated and purified by flash column chromatography (EtOAc/MeOH 10:0 to 10:1) to provide the desired product.

reactant | tert-butyl 2-ethynyl-6-methoxyphenylcarbamate | 7.18 mmol, 1.77 g | C(#C)C1=C(C(=CC=C1)OC)NC(OC(C)(C)C)=O | C14H17NO3
reactant | butyllithium | 14.4 mmol, 0.919 g | C(CCC)[Li]
reactant | N-methoxy-7-(2-methoxyethoxy)-N-methylimidazo[1,2-a]pyridine-3-carboxamide | 5.98 mmol, 1.67 g | CON(C(=O)C1=CN=C2N1C=CC(=C2)OCCOC)C | C13H17N3O4
solvent | THF | 40 mL | C1CCOC1 | C4H8O
solvent | THF | 55 mL | C1CCOC1 | C4H8O
product | tert-butyl 2-methoxy-6-(3-(7-(2-methoxyethoxy)imidazo[1,2-a]pyridin-3-yl)-3-oxoprop-1-ynyl)phenylcarbamate | COC1=C(C(=CC=C1)C#CC(=O)C1=CN=C2N1C=CC(=C2)OCCOC)NC(OC(C)(C)C)=O | C25H27N3O6
